US07189741B2
This compound was prepared following the procedure described in example 13 (part B) starting with 9.4 g (34.4 mmol) of 4-(1H-indol-3-yl)-piperidine-1-carboxylic acid ethyl ester and 40 mL of (40 mmol) of a freshly prepared 1M solution in ethyl ether of 2-bromomethyl-furan. The reaction mixture was stirred at room temperature for 18 hours. After standard work-up, 13.2 g (100% of yield) of 4-(1-furan-2-ylmethyl-1H-indol-3-yl)-piperidine-1-carboxylic acid ethyl ester were obtained.

reactant | 4-(1H-indol-3-yl)-piperidine-1-carboxylic acid ethyl ester | 34.4 mmol, 9.4 g | C(C)OC(=O)N1CCC(CC1)C1=CNC2=CC=CC=C12 | C16H20N2O2
reactant | 2-bromomethyl-furan | BrCC=1OC=CC1 | C5H5BrO
solvent | ethyl ether | C(C)OCC | C4H10O
product | 4-(1-furan-2-ylmethyl-1H-indol-3-yl)-piperidine-1-carboxylic acid ethyl ester | 13.2 g, 100% | C(C)OC(=O)N1CCC(CC1)C1=CN(C2=CC=CC=C12)CC=1OC=CC1 | C21H24N2O3
